US05811459
4-[3-(2-Benzyloxy-3-pyridyl)prop-2-enyl]benzoic acid
(2-(4-Carboxyphenyl)ethyl)triphenylphosphonium bromide (10.9 g, 22.2 mmol) was suspended in THF (80 ml) and the flask was flushed with argon. Lithium bis(trimethylsilyl)amide (1M in THF, 48.8 ml) was added dropwise and the reaction stirred for 1 hour, becoming dark brown. A solution of 2-benzyloxy-3-pyridinecarbaldehyde (4.73 g, 22.2 mmol) in THF (20 ml) was added slowly. The reaction was stirred at ambient temperature for 18 hours (shielding from light alumimium foil). The reaction mixture was then partitioned between Et2O/water, the organic layer was washed with water and the aqueous layers were combined, acidified with HCl and extracted with EtOAc. The organic phase was dried (MgSO4) and evaporated and purified by colum chromtagraphy with MeOH/CH2Cl2 to give the title product.

reactant | (2-(4-Carboxyphenyl)ethyl)triphenylphosphonium bromide | 22.2 mmol, 10.9 g | [Br-].C(=O)(O)C1=CC=C(C=C1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2-benzyloxy-3-pyridinecarbaldehyde | 22.2 mmol, 4.73 g | C(C1=CC=CC=C1)OC1=NC=CC=C1C=O | C13H11NO2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-[3-(2-Benzyloxy-3-pyridyl)prop-2-enyl]benzoic acid | C(C1=CC=CC=C1)OC1=NC=CC=C1C=CCC1=CC=C(C(=O)O)C=C1 | C22H19NO3
